US07939526B2
To a mixture of 1-{[(3-aminoquinolin-4-yl)amino]methyl}cyclobutanol (23.1 mmol, prepared as described in Part D) in dichloromethane (154 mL) and triethylamine (3.54 mL, 25.4 mmol) at 0° C. was added chloroform (100 mL). The mixture was allowed to warm to room temperature and approximately two thirds of the starting material dissolved. To the mixture was slowly added ethoxyacetyl chloride (88% purity, 3.1 g, 24.3 mmol). The solution was stirred at room temperature for 2 hours. More triethylamine (2 mL) and ethoxyacetyl chloride (88% purity, 1.0 g) were added. After an additional 16 hours, the reaction solution was concentrated under reduced pressure. To the residue was added ethanol (190 mL) and triethylamine (13 mL). The resulting solution was heated at reflux for 20 hours and then was concentrated under reduced pressure to yield a yellow solid. The solid was partitioned between dichloromethane (400 mL) and water (100 mL). The organic layer was washed with water (100 mL) and brine (100 mL), dried over MgSO4, filtered, and concentrated under reduced pressure. The crude product was crystallized from acetonitrile and the crystals were isolated by filtration to provide 4.52 g of 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclobutanol.

reactant | 1-{[(3-aminoquinolin-4-yl)amino]methyl}cyclobutanol | 23.1 mmol | NC=1C=NC2=CC=CC=C2C1NCC1(CCC1)O | C14H17N3O
reactant | triethylamine | 25.4 mmol, 3.54 mL | C(C)N(CC)CC | C6H15N
reactant | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
reactant | ethoxyacetyl chloride | 24.3 mmol, 3.1 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | ethoxyacetyl chloride | 1.0 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 154 mL | ClCCl | CH2Cl2
product | 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclobutanol | 4.52 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCC1)O | C18H21N3O2
